### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono): Morphism properties in `SimplexCategoryGenRel`

### PR DESCRIPTION
**Pull request by robin-carlier**
Introduce two predicates `P_σ` and `P_δ` on morphisms in `SimplexCategoryGenRel`:
 - `P_σ` is defined as the `multiplicativeClosure` of degeneracies
 - `P_δ` is defined as the `multiplicativeClosure` of faces

A subsequent pull request will show that every morphism in `SimplexCategoryGenRel` factors as a `P_σ` followed by a `P_δ`.

Part of a series of PR formalising that `SimplexCategoryGenRel` is equivalent to `SimplexCategory`.

---

- [ ] depends on: #21741

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 1]
```diff
@@ -0,0 +1,101 @@
...
+
+-/
+
+namespace SimplexCategoryGenRel
+open CategoryTheory
+
+section EpiMono
+
+/-- `δ i` is a split monomorphism thanks to the simplicial identities. -/
+def SplitMonoδ {n : ℕ} {i : Fin (n + 2)} : SplitMono (δ i) where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:26]:
```suggestion
def splitMonoδ {n : ℕ} {i : Fin (n + 2)} : SplitMono (δ i) where
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 2]
```diff
@@ -0,0 +1,101 @@
...
+    cases i using Fin.lastCases
+    · simp only [Fin.natCast_eq_last, Fin.lastCases_last]
+      exact δ_comp_σ_succ
+    · simp only [Fin.natCast_eq_last, Fin.lastCases_castSucc]
+      exact δ_comp_σ_self
+
+instance {n : ℕ} {i : Fin (n + 2)} : IsSplitMono (δ i) := .mk' SplitMonoδ
+
+/-- `δ i` is a split epimorphism thanks to the simplicial identities. -/
+def SplitEpiσ {n : ℕ} {i : Fin (n + 1)} : SplitEpi (σ i) where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:41]:
```suggestion
def splitEpiσ {n : ℕ} {i : Fin (n + 1)} : SplitEpi (σ i) where
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 3]
```diff
@@ -0,0 +1,101 @@
...
+/-- All `P_δ` are split monos as composition of such. -/
+lemma isSplitMono_P_δ {x y : SimplexCategoryGenRel} {m : x ⟶ y} (hm : P_δ m) :
+    IsSplitMono m := by
+  induction hm with
+  | of x hx => cases hx; infer_instance
+  | id => infer_instance
+  | comp_of _ _ _ h => cases h; infer_instance
+
+lemma isSplitEpi_P_σ_toSimplexCategory {x y : SimplexCategoryGenRel} {e : x ⟶ y} (he : P_σ e)
+    : IsSplitEpi <| toSimplexCategory.map e := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:73]:
```suggestion
lemma isSplitEpi_P_σ_toSimplexCategory {x y : SimplexCategoryGenRel} {e : x ⟶ y} (he : P_σ e) :
    IsSplitEpi <| toSimplexCategory.map e := by
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 4]
```diff
@@ -0,0 +1,101 @@
...
+
+-/
+
+namespace SimplexCategoryGenRel
+open CategoryTheory
+
+section EpiMono
+
+/-- `δ i` is a split monomorphism thanks to the simplicial identities. -/
+def splitMonoδ {n : ℕ} {i : Fin (n + 2)} : SplitMono (δ i) where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:26]:
```suggestion
def splitMonoδ {n : ℕ} (i : Fin (n + 2)) : SplitMono (δ i) where
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 5]
```diff
@@ -0,0 +1,101 @@
...
+    cases i using Fin.lastCases
+    · simp only [Fin.natCast_eq_last, Fin.lastCases_last]
+      exact δ_comp_σ_succ
+    · simp only [Fin.natCast_eq_last, Fin.lastCases_castSucc]
+      exact δ_comp_σ_self
+
+instance {n : ℕ} {i : Fin (n + 2)} : IsSplitMono (δ i) := .mk' splitMonoδ
+
+/-- `δ i` is a split epimorphism thanks to the simplicial identities. -/
+def splitEpiσ {n : ℕ} {i : Fin (n + 1)} : SplitEpi (σ i) where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:41]:
```suggestion
def splitEpiσ {n : ℕ} (i : Fin (n + 1)) : SplitEpi (σ i) where
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 6]
```diff
@@ -0,0 +1,101 @@
...
+  exact isSplitMono_P_δ hm |>.exists_splitMono.some
+
+lemma eq_or_len_le_of_P_δ {x y : SimplexCategoryGenRel} {f : x ⟶ y} (h_δ : P_δ f) :
+    (∃ h : x = y, f = eqToHom h) ∨ x.len < y.len := by
+  induction h_δ with
+  | of _ hx => cases hx; right; simp
+  | id => left; use rfl; simp
+  | comp_of i u _ hg h' =>
+    rcases h' with ⟨e, _⟩ | h'
+    <;> apply Or.inr
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:93]: Infix operators like `<;>` should be put before the line break.

**Comment by joelriou** [comment]
Could you update the description of the PR so as to refer to the multiplicative closure?

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 7]
```diff
@@ -0,0 +1,101 @@
+/-
+Copyright (c) 2025 Robin Carlier. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Robin Carlier
+-/
+import Mathlib.AlgebraicTopology.SimplexCategory.GeneratorsRelations.Basic
+/-! # Epi-mono factorisation in the simplex category presented by generators and relations
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:7]: Mathlib uses more US-english than UK-english.
```suggestion
/-! # Epi-mono factorization in the simplex category presented by generators and relations
```
There are other occurrences below.

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean [hunk 8]
```diff
@@ -0,0 +1,101 @@
...
+
+/-- All `P_δ` are split monos as composition of such. -/
+lemma isSplitMono_P_δ {x y : SimplexCategoryGenRel} {m : x ⟶ y} (hm : P_δ m) :
+    IsSplitMono m := by
+  induction hm with
+  | of x hx => cases hx; infer_instance
+  | id => infer_instance
+  | comp_of _ _ _ h => cases h; infer_instance
+
+lemma isSplitEpi_P_σ_toSimplexCategory {x y : SimplexCategoryGenRel} {e : x ⟶ y} (he : P_σ e) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean:72]: This may be a slightly better name:
```suggestion
lemma isSplitEpi_toSimplexCategory_map_of_P_σ {x y : SimplexCategoryGenRel} {e : x ⟶ y} (he : P_σ e) :
```

Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/EpiMono.lean]: Oh right, I went a bit too fast in f52ef73, apologies.

**Comment by joelriou** [comment]
Thanks!

bors merge
